US03970753
To a stirred solution of 2-(2-aminoethyl)imidazo [1,2-a] pyridine in chloroform chloral was added dropwise and stirring continued at room temperature for an hour. A solid precipitate was filtered off and recrystallised to give 2-(2-formamidoethyl)imidazo [1,2-a]pyridine. The 2-(2-formamidoethyl)imidazo [1,2-a]pyridine was gradually added to a slurry of lithium aluminium hydride in anhydrous tetrahydrofuran and the resultant suspension heated under reflux for 3 hours. By extracting the reaction mixture with dilute hydrochloric acid there was isolated 2-(2-methylaminoethyl)imidazo [1,2-a]pyridine dihydrochloride.

reactant | 2-(2-aminoethyl)imidazo [1,2-a] pyridine | NCCC=1N=C2N(C=CC=C2)C1 | C9H11N3
reactant | chloroform chloral | O=CC(Cl)(Cl)Cl.C(Cl)(Cl)Cl
product | 2-(2-formamidoethyl)imidazo [1,2-a]pyridine | C(=O)NCCC=1N=C2N(C=CC=C2)C1 | C10H11N3O
